US05041679
9.86 Grams of methyl acetoacetate was dissolved in 15 ml of water, and 12.67 g of a 30% aqueous sodium hydroxide solution was added thereto by drops while cooling the mixture to 25° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.0 with a concentrated aqueous hydrochloric acid solution. Thereafter, 0.68 g of sodium formate and 2.42 g of tetrabutylammonium bromide were added thereto. Thereafter a concentrated aqueous hydrochloric acid solution was added to the resulting mixture so that the mixture had a pH of 6.8. Further, 27.2 g of a toluene solution containing 35.1% of 3-(2-methylphenylthio)butanal was added thereto and stirred at 45°-50° C. for 9 hours. The organic layer separated from the mixture was washed with a 5% aqueous acetic acid solution and then with a saturated aqueous sodium chloride solution. Thereafter the layer was dried over anhydrous magnesium sulfate. Removing the solvent from the layer under reduced pressure gave 12.44 g of crude 4-hydroxy-6-(2-methylphenylthio)-2-heptanone (purity: 85.1%, yield: 85.3%). A purified product was obtained by column chromatography. The purified product had an nD21 of 1.5477.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium formate | 0.68 g | C(=O)[O-].[Na+]
reactant | 3-(2-methylphenylthio)butanal | CC1=C(C=CC=C1)SC(CC=O)C | C11H14OS
solvent | water | 15 ml | O | H2O
catalyst | tetrabutylammonium bromide | 2.42 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 27.2 g | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-6-(2-methylphenylthio)-2-heptanone | 12.44 g, yield: 85.3% | OC(CC(C)=O)CC(C)SC1=C(C=CC=C1)C | C14H20O2S
